US04022794
Step A-5. Preparation of 1-Amino-3(S)-benzyloxyoctane
Sodium cyanoborohydride (5% excess over theoretical amount) is allowed portionwise over 1/2 hour to a stirred mixture of 3-(S)-benzyloxy-1-octanal (1 molar equivalent) and ammonium bromide (15 molar equivalents) in methanol at room temperature. The resulting reaction mixture is stirred at room temperature for 48 hours, then is cooled to 0° to 5° C. and cautiously treated with concentrated hydrochloric acid to destroy excess hydride reagent. The resulting reaction mixture is evaporated in vacuo at or below 40° C. leaving a residual mass which is partitioned between 5% hydrochloric acid and ether. The aqueous phase is separated, slowly basicified with potassium carbonate, and extracted with ether three times. The combined organic extract is washed with saturated aqueous brine, dried over sodium sulfate, and filtered. In vacuo evaporation of the filtrate leaves the title compound as an essentially colorless oil.

reactant | Sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 3-(S)-benzyloxy-1-octanal | 1 molar | C(C1=CC=CC=C1)O[C@H](CC=O)CCCCC | C15H22O2
reactant | ammonium bromide | 15 molar | [Br-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-Amino-3(S)-benzyloxyoctane | NCC[C@H](CCCCC)OCC1=CC=CC=C1 | C15H25NO
